US04637902
(2-1) Preparation of Phenyl 5-Bromosalicylate
80 ml of thionyl chloride was gradually added to a benzene suspension of 217 g of 5-bromosalicyclic acid and 113 g of phenol, followed by refluxing for ten hours under heating. After distilling off the benzene, ice-water was added to the residue, and the precipitate formed was collected by filtration, followed by drying. Yield: 210 g.

reactant | thionyl chloride | 80 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-bromosalicyclic acid | 217 g | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | phenol | 113 g | C1(=CC=CC=C1)O | C6H6O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Phenyl 5-Bromosalicylate | BrC1=CC=C(C(C(=O)OC2=CC=CC=C2)=C1)O | C13H9BrO3
